US04410520
A solution of 3-azido-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one (8.7 g, 0.043 mol), in dry dimethylformamide (75 ml) was added during 30 min to a stirred suspension of sodium hydride [from a 60% mineral oil dispersion (1.9 g) washed with petroleum ether (3×150 ml)] in dry dimethylformamide (250 ml) maintained at 0° C. under a nitrogen atmosphere. Stirring was continued for an additional 1.5 hours, then benzyl bromoacetate (10.8 g; 0.047 mol) in dry dimethylformamide (75 ml) was added during 45 minutes, the temperature being maintained at 0°. The reaction mixture is then allowed to warm to room temperature while stirring for an additional 18 hours. The dimethylformamide was removed under reduced pressure and the residue partitioned between water (500 ml) and dichloromethane (500 ml). The aqueous phase was extracted with additional dichloromethane (3×500 ml). The combined extracts were dried over sodium sulfate and the solvent was removed under reduced pressure to give the crude ester-azide as an oil. This material was dissolved in toluene (500 ml) and silica gel (48 g) was added. Filtration and removal of the solvent under reduced pressure gave 3-azido-1-benzyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one, as an oil, used without further purification in the next synthetic step.

reactant | 3-azido-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | 0.043 mol, 8.7 g | N(=[N+]=[N-])C1C(NC2=C(CC1)C=CC=C2)=O | C10H10N4O
reactant | sodium hydride | [H-].[Na+]
reactant | benzyl bromoacetate | 0.047 mol, 10.8 g | BrCC(=O)OCC1=CC=CC=C1 | C9H9BrO2
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 75 ml | CN(C=O)C | C3H7NO
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
product | 3-azido-1-benzyloxycarbonylmethyl-2,3,4,5-tetrahydro-1H-[1]benzazepin-2-one | N(=[N+]=[N-])C1C(N(C2=C(CC1)C=CC=C2)CC(=O)OCC2=CC=CC=C2)=O | C19H18N4O3
